US09340506B2
2-(4-Morpholinosulfonylphenyl)-2-tetrahydropyran-4-yloxy-N-thiazolo[5,4-b]pyridin-2-yl-acetamide
The compound of example A4 was obtained by similar method described in example A2 using 2-(4-morpholinosulfonylphenyl)-2-tetrahydropyran-4-yloxy-acetic acid (Preparation 11, 0.1 g, 0.25 mmol), thiazolo[5,4-b]pyridin-2-ylamine (0.050 g, 0.31 mmol), HOBt (0.042 g, 0.31 mmol), and EDCl (0.060 g, 0.31 mmol), N-methyl morpholine (0.065 g, 0.64 mmol) in DMF (5 mL) to provide the title compound (0.028 g).

reactant | 2-(4-morpholinosulfonylphenyl)-2-tetrahydropyran-4-yloxy-acetic acid | 0.25 mmol, 0.1 g | O1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C(C(=O)O)OC1CCOCC1 | C17H23NO7S
reactant | thiazolo[5,4-b]pyridin-2-ylamine | 0.31 mmol, 0.050 g | N1=C(SC2=NC=CC=C21)N | C6H5N3S
reactant | HOBt | 0.31 mmol, 0.042 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl | 0.31 mmol, 0.060 g | CCN=C=NCCCN(C)C.Cl
reactant | N-methyl morpholine | 0.64 mmol, 0.065 g | CN1CCOCC1 | C5H11NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-(4-Morpholinosulfonylphenyl)-2-tetrahydropyran-4-yloxy-N-thiazolo[5,4-b]pyridin-2-yl-acetamide | 0.028 g | O1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C(C(=O)NC=1SC2=NC=CC=C2N1)OC1CCOCC1 | C23H26N4O6S2
